* G:\My Drive\Graduate Reserach\LTSpice\SC Fibb\SC FIB NEW TI\SC_FIB_TI_AURA_D.asc
M1 N006 NC_01 N011 N011 NMOS
M2 N011 NC_02 0 0 NMOS
M3 N003 NC_03 N006 N006 NMOS
M4 N003 NC_04 N010 N010 NMOS
M5 N010 NC_05 0 0 NMOS
M6 N005 NC_06 N003 N003 NMOS
M7 N005 NC_07 N002 N002 NMOS
M8 N002 NC_08 N003 N003 NMOS
M9 N002 NC_09 N009 N009 NMOS
M10 N009 NC_10 0 0 NMOS
M11 N004 NC_11 N002 N002 NMOS
M12 N004 NC_12 N001 N001 NMOS
M13 N001 NC_13 N002 N002 NMOS
D1 N011 N006 D
D2 0 N011 D
D3 N006 N003 D
D4 N010 N003 D
D5 0 N010 D
D6 N003 N005 D
D7 N002 N005 D
D8 N003 N002 D
D9 N009 N002 D
D10 0 N009 D
D11 N002 N004 D
D12 N001 N004 D
D13 N002 N001 D
V1 N007 N017 12
V2 N015 0 4
R1 N006 N015 5m
R3 N007 N008 5m
R4 N017 N018 5m
L1 N008 N001 100n
L2 0 N018 100n
C1 N014 N011 5µ
C5 N006 N016 2µ
R5 N014 N003 3m
R9 N016 0 2m
C2 N013 N010 5µ
R2 N013 N005 3m

C3 N012 N009 5µ
R6 N012 N004 3m
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
